US07456169B2
1-benzyl-4-chloro-2-methoxybenzene
1-Bromomethyl-4-chloro-2-methoxy-benzene (50 mg, 0.21 mmol), phenyl boronic acid (28 mg, 0.23 mmol), Pd(PPh3)4 (24 mg, 0.021 mmol) and K2CO3 (87 mg, 0.63 mmol) were combined in dioxane, purged with N2, and heated to reflux for 16 hours. The mixture was then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel eluting with 4:1 hexanes/ethyl acetate to provide 9 mg (18%) of the title compound. MS (ESI) m/e 233 (M+H)+.

reactant | 1-Bromomethyl-4-chloro-2-methoxy-benzene | 0.21 mmol, 50 mg | BrCC1=C(C=C(C=C1)Cl)OC | C8H8BrClO
reactant | phenyl boronic acid | 0.23 mmol, 28 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.63 mmol, 87 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.021 mmol, 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-benzyl-4-chloro-2-methoxybenzene | 9 mg, 18% | C(C1=CC=CC=C1)C1=C(C=C(C=C1)Cl)OC | C14H13ClO
